Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Percutaneous cholangiogram
Endoscopic ultrasound

 
History of Present Illness:
___ male with history of hepatitis C presents for
evaluation of worsening b/l mid quadrant abdominal pain x 1 week
and fever x2 days. The patient reports several days of worsening
somnolence at home, and increased abdominal pain. He developed a
fever two days ago. Pain worse after eating. Additionally notes,
dark in color of his urine and increased abdominal girth. Here,
the patient is febrile. He was referred from his doctor's office
for abnormal LFTs. He has not had diarrhea, nausea, vomiting. He
thought he might have had blood in his stool since it looked
dark. He has also been having post prandial R sided chest pain
and shortness of breath on exertion. He has had such fatigue for
the past 3 weeks that he has not been able carry out his job as 
a
___ 
.
Of note recent admisson to ___ with GIB.  S/p ___ and EGD. He
does not know what it showed. He received 3 U PRBCS. 
.
In ER: (Triage Vitals: 7 100.7 93 131/72 16 99% ) 
Meds Given: cefepime
Fluids given: 1L NS
Radiology Studies: 
consults called. None
.
PAIN SCALE: mild 
________________________________________________________________
REVIEW OF SYSTEMS: 10 or 2 with "all otherwise negative"
CONSTITUTIONAL:        [] All Normal
[ +] Fever  [+ ] Chills   [ ] Sweats  [+] Fatigue   [+] Malaise  

[ ]Anorexia  [ ]Night sweats
[ +] __10_ lbs.    weight  loss over the past week
Eyes
        [X] All Normal
[ ] Blurred vision   [ ] Loss of vision [] Diplopia [ ]
Photophobia
ENT[X]WNL
[ ] Dry mouth  [ ] Oral ulcers [ ] Bleeding gums [ ] Sore throat 

[] Sinus pain [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ] Other:
RESPIRATORY:    [] All Normal
[ +] Shortness of breath      [+ ] Dyspnea on exertion just when
bending over to tie his shoes      [ -] Cough- denies but he 
does
cough when I am in the room [ ] Wheeze  [ ] Purulent sputum    [
] Hemoptysis   [ ]Pleuritic pain 
[ ] Other:
CARDIAC:        []  All Normal
[ -] Palpitations   [ ] Edema   [ -] PND [ ] Orthopnea    [ ]
Chest Pain [+ ] Dyspnea on exertion [ ] Other:
GI:             [] All Normal
[- ] Nausea  [-] Vomiting   []  Abd pain  [] Abdominal swelling
[- ] Diarrhea    [- ] Constipation  [ ] Hematemesis 
[? ] Blood in stool     [ ] Melena [ ] Dysphagia:   [ ] Solids   

[ ] Liquids     [ ] Odynophagia  [ ] Anorexia    [ ] Reflux
[ ] Other:
GU:             [X] All Normal
[ ] Dysuria      [ ] Incontinence or retention  [ ] Frequency   
[ ] Hematuria  []Discharge []Menorrhagia  
SKIN:           [X] All Normal
[ ] Rash        [ ] Pruritus
MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain
NEURO:          [X] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo
[ ] Headache
ENDOCRINE:     [] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Heat or cold 
intolerance
[+ ] loss of energy
HEME/LYMPH:    [X] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy
ALLERGY:
[+ ]Medication allergies - PCN - he doesn't know the reaction
since it occurred when he was a baby  [ ] Seasonal allergies
[X]all other systems negative except as noted above 

 
Past Medical History:
Hepatitis C - s/p failed trial of ___ 
GIB s/p 3U PRBCS during admission in ___/ S/p ___ at
? ___. He does not know what it showed
 
Social History:
___
___ History:
Mother died of dementia at ___.  
His father died of kidney failure at age ___

 
Physical Exam:
Admission Exam:
VITAL SIGNS: 
1. VS T 98.9 P 79 BP  119/75 RR  18 O2Sat on  ___98 on RA 
GENERAL:  Well appeaing male but he does have mild temporal
wasting
Nourishment:OK  
Grooming: good  
Mentation  
2. Eyes: [] WNL 
EOMI without nystagmus, Conjunctiva: injected b/l 
3. ENT [] WNL
[] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ cm
[X] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [] WNL
[X] Regular  [] Tachy  [X] S1 [X] S2 [-] Systolic Murmur     /6,
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
[X] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [ ]WNL
[] CTA bilaterally  [ X] Rales-bibasilar  [ ] Diminshed
[X] Comfortable     [ ] Rhonchi   [ ] Dullness
6. Gastrointestinal [ ] WNL
NABS, soft, NT
7. Musculoskeletal-Extremities [] WNL
[ ] Tone WNL  [ X]Upper extremity strength ___ and symmetrical  
[
]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[
] Other:
[X] Normal gait  []No cyanosis  [ ] No clubbing  [] No joint
swelling
8. Neurological [X] WNL
[X ] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ]
CN II-XII intact  [- ] Normal attention  [ ] FNF/HTS WNL []
Sensation WNL  [ +] inattentive and sometimes sleepy[ ] 
Asterixis
Present/Absent  [ ] Position sense WNL

[ ] Demented  [ ] No pronator drift  [] Fluent speech
9. Integument  [] WNL
[X] Warm  [X] Dry  [] Cyanotic [] Rash:
none/diffuse/face/trunk/back/limbs  
[ ] Cool [] Moist  [] Mottled  [] Ulcer:
None/decubitus/sacral/heel: Right/Left
10. Psychiatric [] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[] Pleasant [] Depressed [] Agitated [] Psychotic 
   
Discharge Exam:
********************
Vital Signs: 98.0 ___ 18 97%RA
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: CTA B 
GI: Distended and slightly firm, nontender, dressings c/d/i, no 
rebound or guarding, BS present 
NEURO: Non-focal
 
Pertinent Results:
Admission Labs:
___ 10:18PM BLOOD WBC-14.7* RBC-4.81 Hgb-10.3* Hct-34.5* 
MCV-72* MCH-21.4* MCHC-29.8* RDW-22.3* Plt ___
___ 10:18PM BLOOD Neuts-77.2* Lymphs-13.8* Monos-8.1 
Eos-0.5 Baso-0.3
___ 10:18PM BLOOD ___ PTT-32.0 ___
___ 10:18PM BLOOD Glucose-104* UreaN-19 Creat-0.9 Na-131* 
K-4.3 Cl-98 HCO3-21* AnGap-16
___ 10:18PM BLOOD ALT-119* AST-129* AlkPhos-268* 
TotBili-1.8*
___ 10:18PM BLOOD Lipase-25
___ 10:18PM BLOOD Albumin-3.4*
___ 10:29PM BLOOD Lactate-1.4

___ 11:15AM BLOOD AFP-94.7*
___ 10:18PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:32AM BLOOD CK-MB-<1 cTropnT-<0.01

___ 06:00AM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:00AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.0 Leuks-NEG
___ 06:00AM URINE RBC-0 WBC-1 Bacteri-FEW Yeast-NONE Epi-0

Discharge Labs:
___ 06:27AM BLOOD WBC-8.5 RBC-4.63 Hgb-9.9* Hct-33.3* 
MCV-72* MCH-21.4* MCHC-29.8* RDW-22.9* Plt ___
___ 06:27AM BLOOD ___
___ 06:27AM BLOOD UreaN-11 Creat-0.7 Na-137 K-4.0 Cl-103 
HCO3-27 AnGap-11
___ 06:27AM BLOOD ALT-47* AST-69* AlkPhos-210* TotBili-0.7
___ 06:27AM BLOOD Calcium-8.2* Phos-2.9 Mg-2.0

Blood Cx x 4, Urine Cx NEGATIVE

ECG - Sinus rhythm. Normal ECG. No previous tracing available 
for comparison.

RUQ U/S - IMPRESSION: 
1.  Collapsed gallbladder with mild wall thickening, likely 
secondary to volume overload. No convincing evidence of 
cholelithiasis or acute cholecystitis.
2.  Ill-defined, vascularized, 5.0 x 3.4 cm mass near the 
pancreatic head is incompletely characterized, but worrisome for 
underlying malignancy. Recommend further characterization by 
contrast-enhanced MRCP.
3.  Near-complete occlusion of the main portal and splenic 
veins.
4.  Coarsened hepatic echotexture, moderate ascites, and 
splenomegaly.

CXR - IMPRESSION: 
Bibasilar retrocardiac opacities, which could be due to 
atelectasis, aspiration, and/or infectious pneumonia. Repeat 
radiograph with improved inspiratory level would allow more 
complete assessment of this region.

CT A/P - 
IMPRESSION:
1. Findings suggestive of multifocal hepatoma associated with 
the portal vein invasion
2. Small to moderate ascites
 
Brief Hospital Course:
___ with HCV Genotype ___ s/p failed therapy IFN, Sovaldi 
complicated by PVT and cavernous transformation, rising AFP and 
recent diagnosis of likely ___ admitted with cholangitis s/p ___ 
guided cholangiogram which was clear, clinically stable with 
improving LFTs WBC and fever curve during admission also s/p EUS 
to eval for pancreatic involvement.
       
# Sepsis: 
# Cholangitis: 
Patient was febriled with leukocytosis and biliary obstruction 
on labs.  RUQ US and CT scan demonstrated areas of proximal 
intrahepatic biliary dilatation due to several liver masses 
concerning for HCC.  CXR also suggested PNA though he had no 
symptoms for this.  He was diagnosed with cholangitis due to his 
liver masses causing obstruction.  He was started on 
Levo->Cipro/Flagyl and Liver, ERCP, and ___ were consulted.  His 
fever and leukocytosis resolved with IVF, and his LFTs improved. 
 He went for PTBD on ___ though ___ ultimately did not find 
full bile obstuction and no PTBD were performed. He clinically 
improved while on Cipro and Flagyl and was never hemodynamically 
unstable.  Treated with 7 days of antibiotics.
   
# Likely Hepatocellular carcinoma: With 5cm mass near head of 
pancreas. Liver confirmed dx of HCC, and recommended EUS and 
biopsy of enlarged lymph node, as that would have treatment 
implications in the future. EUS performed with biopsies pending 
at the time of discharge.
   
# HCV cirrhosis:
Chronic, Genotype ___ s/p failed therapy IFN, Sovaldi complicated 
by PVT, splenic vein thrombosis and cavernous transformation. 
Mild coagulopathy and small amount of non tappable ascites.  
Liver followed during his stay and he was continued on 
Rifaximin.  He remained compensated during admission
  
# GERD: 
Continued PPI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
2. Rifaximin 550 mg PO BID 

 
Discharge Medications:
1. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
2. Rifaximin 550 mg PO BID 
3. Ciprofloxacin HCl 500 mg PO Q12H 
You will complete your course of antibiotics tonight (___). 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*1 Tablet Refills:*0
4. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
You will complete your course of antibiotics tonight (___). 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*2 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active:
Hepatocellular carcinoma
Bile obstruction, cholangitis

Chronic:
HCV cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr ___,
 
It was a pleasure treating you during this hospitalization. You 
were admitted for evaluation of fever and abdominal pain.  
Imaging detected a tumor in your liver causing bile obstruction. 
 Hepatology, radiology, and GI were involved in your care and 
you underwent a cholangiogram and an endoscopic ultrasound with 
biopsy of your lymph node. You will follow up as below to review 
the results of this biopsy. 

You were also treated with antiobiotics for a possible infection 
in your bile ducts. You will complete these antibiotics tonight 
(___).   
 
Followup Instructions:
___